US07541374B2
1.58 g of 4-{[5-amino-1-(4-methoxybenzyl)-1H-pyrazole-4-yl]dithio}1-(4-methoxybenzyl)-1H-pyrazole-5-amine was dissolved to 20 ml of N,N-dimethylformamide. 20 ml of water, 1.42 g of sodium hydrogen carbonate and 2.93 g of sodium hydrosulfite were added to the solution under ice-cooling. 5.28 g of trichlorofluoromethane was added to the mixture, followed by stirring at room temperature for 15 hours. Water was added to the reaction mixture, and extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 1.04 g of 4-{[dichlorofluoromethyl]thio}-1-(4-methoxybenzyl)-1H-pyrazole-5-amine.

reactant | 4-{[5-amino-1-(4-methoxybenzyl)-1H-pyrazole-4-yl]dithio}1-(4-methoxybenzyl)-1H-pyrazole-5-amine | 1.58 g | NC1=C(C=NN1CC1=CC=C(C=C1)OC)SSC=1C=NN(C1N)CC1=CC=C(C=C1)OC | C22H24N6O2S2
reactant | sodium hydrogen carbonate | 1.42 g | C(O)([O-])=O.[Na+]
reactant | sodium hydrosulfite | 2.93 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | trichlorofluoromethane | 5.28 g | ClC(F)(Cl)Cl | CCl3F
solvent | Water | O | H2O
solvent | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-{[dichlorofluoromethyl]thio}-1-(4-methoxybenzyl)-1H-pyrazole-5-amine | 1.04 g | ClC(SC=1C=NN(C1N)CC1=CC=C(C=C1)OC)(F)Cl | C12H12Cl2FN3OS
